US04259510
5-Chloro-2-nitrobenzoic acid (20.1 g,; 0.10 mol), is dissolved in anhydrous methanol (100 ml) and anhydrous hydrogen chloride gas is bubbled into the reaction mixture for 4 hours at room temperature. The reaction mixture is then poured into water and the aqueous mixture triturated with hexane, the hexane layer decanted, dried (anhd. MgSO4) and the solvent removed under vacuum to afford 11.7 g of methyl 5-chloro-2-nitrobenzoate, mp 50°-51° C.

reactant | 5-Chloro-2-nitrobenzoic acid | 0.10 mol, 20.1 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methanol | 100 ml | CO | CH4O
product | methyl 5-chloro-2-nitrobenzoate | 11.7 g | ClC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6ClNO4
